US07566734B2
N-((1R)-2-(1H-indol-3-yl)-1-(4-phenyl-1H-imidazol-2-yl)ethyl)-2-pyrimidinamine
(1R)-2-(1H-indol-3-yl)-1-(4-phenyl-1H-imidazol-2-yl)ethanamine (2 g; 0.0066 mol; prepared according to experimental conditions analogous to the preceding examples and using the appropriate starting compounds and reaction products) was diluted in 10 ml n-butanol. 2-bromopyrimidine (1 g; 0.0066 mol) and then diisoethylamine (1.15 ml; 0.0066 mol) were added dropwise. The mixture was then heated to around 80° C. for about 16 hours. The n-butanol was evaporated and the residue taken up in water and ethyl acetate. The organic phase was washed with water and then with a saturated solution of sodium chloride before being dried over magnesium sulfate and concentrated using a rotative evaporator. After purification over a silica column (eluent: ethyl acetate-heptane/7-3, followed by CH2Cl2-MeOH-NH4OH/95-4.5-0.5 and ethyl acetate). A white powder was obtained (yield of 20%). Free base. Melting point: 138-140° C. MH+=381.2.

reactant | (1R)-2-(1H-indol-3-yl)-1-(4-phenyl-1H-imidazol-2-yl)ethanamine | N1C=C(C2=CC=CC=C12)C[C@@H](N)C=1NC=C(N1)C1=CC=CC=C1 | C19H18N4
reactant | 2-bromopyrimidine | 0.0066 mol, 1 g | BrC1=NC=CC=N1 | C4H3BrN2
solvent | n-butanol | 10 ml | C(CCC)O | C4H10O
product | N-((1R)-2-(1H-indol-3-yl)-1-(4-phenyl-1H-imidazol-2-yl)ethyl)-2-pyrimidinamine | yield of 20% | N1C=C(C2=CC=CC=C12)C[C@H](C=1NC=C(N1)C1=CC=CC=C1)NC1=NC=CC=N1 | C23H20N6
